US07105503B2
Preparation of 3-fluoro-4-(morpholin-4-yl)methylphenylamine
To a solution of 4-(2-fluoro-4-nitrobenzyl)morpholine (245 mg; 1.02 mmol) in THF:ethanol mixture (1:1) (40 mL) was added a catalytical amount of Raney-Nickel and hydrazine hydrate (6.0 mmol) and the mixture was stirred for 20 minutes at ambient temperature, then filtered through a Celite/silica gel pad. The filtrate was evaporated to provide the title compound (210 mg, 99%), which was used in further reactions without purification.

reactant | 4-(2-fluoro-4-nitrobenzyl)morpholine | 1.02 mmol, 245 mg | FC1=C(CN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C11H13FN2O3
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | hydrazine hydrate | 6.0 mmol | O.NN
solvent | THF | C1CCOC1 | C4H8O
catalyst | Raney-Nickel | [Ni] | Ni
product | 3-fluoro-4-(morpholin-4-yl)methylphenylamine | 210 mg, 99% | FC=1C=C(C=CC1CN1CCOCC1)N | C11H15FN2O
